US04340740
979 mg of O-(p-toluenesulfonyl)-m-benzoylmandelonitrile was dissolved in 2 ml of DMF, and the mixture was stirred in an argon atmosphere under ice cooling. Then, 1.08 ml of a 2.3 M methanol solution of sodium methanethiolate was added dropwise to the solution over 5 minutes, and the mixture was further stirred under ice cooling. An aqueous solution of ammonium chloride (0.2 g/30 ml) was added, and the mixture was extracted with methylene chloride. The extract was washed with 10 ml of water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The oily residue was separated by column chromatography (silica gel; methylene chloride) to afford 533 mg (yield 80%) of alpha-(methylthio)(m-benzoylphenyl)acetonitrile as a pale orange oil.

reactant | O-(p-toluenesulfonyl)-m-benzoylmandelonitrile | 979 mg | C1(=CC=C(C=C1)S(=O)(=O)OC(C#N)C1=CC(=CC=C1)C(C1=CC=CC=C1)=O)C | C22H17NO4S
reactant | methanol | 2.3 M | CO | CH4O
reactant | sodium methanethiolate | C[S-].[Na+]
reactant | ammonium chloride | 30 ml, 0.2 g | [Cl-].[NH4+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | alpha-(methylthio)(m-benzoylphenyl)acetonitrile | 533 mg, yield 80% | CSC(C#N)C1=CC(=CC=C1)C(C1=CC=CC=C1)=O | C16H13NOS
